US05736534
4-(6-Chloro-2,3-dihydro-indol-1-yl)-6-methoxy-quinazoline
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 77% yield from 6-chloro-indoline and 4-chloro-6-methoxy-quinazoline. (M.P. 243° C.; LC-MS: 312 (MH+)).

reactant | 6-chloro-indoline | ClC1=CC=C2CCNC2=C1 | C8H8ClN
reactant | 4-chloro-6-methoxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)OC | C9H7ClN2O
product | 4-(6-Chloro-2,3-dihydro-indol-1-yl)-6-methoxy-quinazoline | 77% yield | ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC=C(C=C12)OC | C17H14ClN3O
